US07687637B2
49a) 1-Bromo-1-(3-nitro-phenyl)-propan-2-one
A stirred solution of 3-nitrophenylacetone (0.5 g, 13.9 mmol) in THF (10 ml) at room temperature is treated with polymer supported pyridine hydrobromide perbromide (1.4 g, 2 mmol Br3−/g). The reaction mixture is stirred overnight, then filtered and concentrated in vacuo. The residue is purified by chromatography on silica with iso-hexane-ethyl acetate (6:1) to give the titled compound.

reactant | 3-nitrophenylacetone | 13.9 mmol, 0.5 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(C)=O | C9H9NO3
reactant | pyridine hydrobromide perbromide | 2 mmol, 1.4 g | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Bromo-1-(3-nitro-phenyl)-propan-2-one | BrC(C(C)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H8BrNO3
